US05262390
Step H: 2-(4-Hydroxy-2-fluorophenyl)-4-methyl-1,2,4-triazine-3,5,-dione
Concentrated sulfuric acid (5 mL) that had been cooled to 0°-5° C. was mixed with 2.80 g (0.010 mole) of 2-(4-isopropoxy-2-fluorophenyl)-4-methyl-1,2,4-triazine-3,5-dione that had been cooled to 0° C. The mixture was maintained at 0° C. for ten minutes, during which time it became homogeneous. The mixture was then poured into ice-water, and the resulting mixture was extracted with ethyl acetate. The extract was washed in succession with a saturated aqueous solution of sodium bicarbonate and a saturated aqueous solution of sodium chloride. The extract was dried over anhydrous magnesium sulfate and filtered. The solvent was evaporated from the filtrate under reduced pressure, leaving a residue. This residue was placed on a column of silica gel and eluted with ethyl acetate/hexane (1:1). After the product-containing fractions were combined and the solvents evaporated under reduced pressure, 1.38 g of 2-(4-hydroxy-2-fluorophenyl)-4-methyl-1,2,4-triazine-3,5-dione was recovered as a stiff syrup. The NMR was consistent with the proposed structure.

reactant | sulfuric acid | 5 mL | S(O)(O)(=O)=O | H2O4S
reactant | 2-(4-isopropoxy-2-fluorophenyl)-4-methyl-1,2,4-triazine-3,5-dione | 0.010 mole, 2.80 g | C(C)(C)OC1=CC(=C(C=C1)N1N=CC(N(C1=O)C)=O)F | C13H14FN3O3
product | 2-(4-Hydroxy-2-fluorophenyl)-4-methyl-1,2,4-triazine-3,5,-dione | OC1=CC(=C(C=C1)N1N=CC(N(C1=O)C)=O)F | C10H8FN3O3
